US06352993B1
Step 1: 5,6-dimethyl-2-chloro-4-(5,8-dimethoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine
After 5,8-dimethoxy-1-methyl-1,2,3,4-tetrahydroisoquinoline(10 g, 4.82 mmol) and triethylamine (0.67 ml, 4.82 mmol) were added to a suspension of 5,6-dimethyl-2,4-dichloropyrimidine(0.71 g, 4.02 mmol) in dimethylformamide, 1.02 g of the titled compound was obtained in accordance with the same procedure as in Step 1 of Example 35. (Yield: 72.8%)

reactant | 5,8-dimethoxy-1-methyl-1,2,3,4-tetrahydroisoquinoline | 4.82 mmol, 10 g | COC1=C2CCNC(C2=C(C=C1)OC)C | C12H17NO2
reactant | triethylamine | 4.82 mmol, 0.67 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dimethyl-2,4-dichloropyrimidine | 4.02 mmol, 0.71 g | CC=1C(=NC(=NC1C)Cl)Cl | C6H6Cl2N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-chloro-4-(5,8-dimethoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.02 g, Yield: 72.8% | CC=1C(=NC(=NC1C)Cl)N1C(C2=C(C=CC(=C2CC1)OC)OC)C | C18H22ClN3O2
